US08703784B2
Step 2: Preparation of tert-butyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-oxa-9-azabicyclo[3.3.1]non-6-ene-9-carboxylate
A mixture of tert-butyl 7-(trifluoromethylsulfonyloxy)-3-oxa-9-azabicyclo[3.3.1]non-6-ene-9-carboxylate (701 mg, 1.879 mmol), bis(pinacolato)diboron (573.1 mg, 2.256 mmol), Pd(dppf)Cl2.CH2Cl2 (87.11 mg, 0.112 mmol), dppf (65.4 mg, 0.118 mmol) and KOAc (554 mg, 5.64 mmol) in dioxane (11 ml) was heated under argon at 80° C. for 16 h. Upon cooling, the solvent was evaporated off under reduced pressure and the residue was dissolved in ethyl acetate (50 mL). The organic layer was washed with water (1×50 ml), brine (1×50 mL), dried (Na2SO4) and evaporated under reduced pressure to give crude material which was purified by column chromatography (0-40% hexane-ethyl acetate) to provide the desired product tert-butyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-oxa-9-azabicyclo[3.3.1]non-6-ene-9-carboxylate (390 mg) as white solid.

reactant | tert-butyl 7-(trifluoromethylsulfonyloxy)-3-oxa-9-azabicyclo[3.3.1]non-6-ene-9-carboxylate | 1.879 mmol, 701 mg | FC(S(=O)(=O)OC1=CC2COCC(C1)N2C(=O)OC(C)(C)C)(F)F | C13H18F3NO6S
reactant | bis(pinacolato)diboron | 2.256 mmol, 573.1 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CH2Cl2 | 0.112 mmol, 87.11 mg | C(Cl)Cl | CH2Cl2
reactant | KOAc | 5.64 mmol, 554 mg | CC(=O)[O-].[K+]
solvent | dioxane | 11 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.118 mmol, 65.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | tert-butyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-oxa-9-azabicyclo[3.3.1]non-6-ene-9-carboxylate | 390 mg | CC1(OB(OC1(C)C)C1=CC2COCC(C1)N2C(=O)OC(C)(C)C)C | C18H30BNO5
